US09290465B2
{3-[5-(4-methanesulfonyl-benzyloxy)-pyridin-2-yl]-isoxazol-4-yl}-carbamic acid tert-butyl ester (70 mg, 0.16 mmol) was dissolved in dioxane (1.5 mL) and treated with 4N HCl in dioxane (1.5 mL, 1.5 mmol). After stirring for 1.5 h, the product 3-[5-(4-methanesulfonyl-benzyloxy)-pyridin-2-yl]-isoxazol-4-ylamine hydrochloride (43 mg, 78%) was isolated as a white solid by filtration. M+1=346.0

reactant | {3-[5-(4-methanesulfonyl-benzyloxy)-pyridin-2-yl]-isoxazol-4-yl}-carbamic acid tert-butyl ester | 0.16 mmol, 70 mg | C(C)(C)(C)OC(NC=1C(=NOC1)C1=NC=C(C=C1)OCC1=CC=C(C=C1)S(=O)(=O)C)=O | C21H23N3O6S
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 1.5 mmol, 1.5 mL | O1CCOCC1 | C4H8O2
product | 3-[5-(4-methanesulfonyl-benzyloxy)-pyridin-2-yl]-isoxazol-4-ylamine hydrochloride | 43 mg, 78% | Cl.CS(=O)(=O)C1=CC=C(COC=2C=CC(=NC2)C2=NOC=C2N)C=C1 | InChI=1S/C16H15N3O4S.ClH/c1-24(20,21)13-5-2-11(3-6-13)9-22-12-4-7-15(18-8-12)16-14(17)10-23-19-16;/h2-8,10H,9,17H2,1H3;1H
